US07176242B2
To an ice-cold, stirred solution of cyclohexane-1,4-dicarboxylic acid (3.0 g, 17 mmol) in a mixture of 2:1 tetrahydrofuran/methanol (24 mL) was added trimethylsilyl diazomethane (9 mL of a 2.0 M in hexanes, 18 mmol). The reaction mixture was stirred at room temperature for 2 h. Acetic acid (5 mL) was added and the solvent was removed under reduced pressure. Purification by flash column chromatography (silica, 10:1:0.01 hexanes/ethyl acetate/acetic acid) provided 4-(methoxycarbonyl)cyclohexanecarboxylic acid (1.00 g): 1H NMR (300 MHz, CDCl3) δ 3.68 (s, 3H), 2.53–2.47 (m, 2H), 1.97–1.89 (m, 4H), 1.74–1.66 (m, 4H).

reactant | cyclohexane-1,4-dicarboxylic acid | 17 mmol, 3.0 g | C1(CCC(CC1)C(=O)O)C(=O)O | C8H12O4
reactant | tetrahydrofuran methanol | 24 mL | O1CCCC1.CO
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 4-(methoxycarbonyl)cyclohexanecarboxylic acid | 1.00 g | COC(=O)C1CCC(CC1)C(=O)O | C9H14O4
